US04062798
0.082 mol of 4-amidino-benzoic acid amide hydrochloride, suspended in a solution of 0.082 mol of 2-n-hexyl-3-ethoxy-acrolein and 0.14 mol of sodium methylate in 150 ml. of methanol, are stirred overnight at room temperature under an atmosphere of nitrogen. The precipitate obtained by diluting the reaction mixture with 3.1 of ether is removed by filtration, washed with water until neutral and dried at 40° in a vacuum drying cabinet, whereby 17.9 g. of 4-(4-n-hexylpyrimid-2-yl)benzoic acid amide are obtained, m.p. 231.6° - 233.0°.

reactant | 4-amidino-benzoic acid amide hydrochloride | 0.082 mol | Cl.C(N)(=N)C1=CC=C(C(=O)N)C=C1
reactant | 2-n-hexyl-3-ethoxy-acrolein | 0.082 mol | C(CCCCC)C(C=O)=COCC | C11H20O2
reactant | sodium methylate | 0.14 mol | C[O-].[Na+]
reactant | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 4-(4-n-hexylpyrimid-2-yl)benzoic acid amide | C(CCCCC)C1=NC(=NC=C1)C1=CC=C(C(=O)N)C=C1 | C17H21N3O
